US05534647
2-Ethyl-2-(4-vinylbenzyloxy)methyl-3-ethoxycarbonyloxypropanol
Analogous to Example 1, the title compound was synthesized using 13.8 g of 5-ethyl-5-(4-vinylbenzyloxy) methyl-2-oxo-1,3-dioxane, 4,6 g of ethanol and 0.2 g of p-toluenesulfonic acid.

reactant | 5-ethyl-5-(4-vinylbenzyloxy) methyl-2-oxo-1,3-dioxane | 13.8 g | C(C)C1(COC(OC1)=O)COCC1=CC=C(C=C1)C=C | C16H20O4
reactant | p-toluenesulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethanol | 4,6 g | C(C)O | C2H6O
product | 2-Ethyl-2-(4-vinylbenzyloxy)methyl-3-ethoxycarbonyloxypropanol | C(C)C(CO)(COC(=O)OCC)COCC1=CC=C(C=C1)C=C | C18H26O5
